Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute hypercarbic respiratory failure

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with past medical history of
asthma/COPD (not on home oxygen), CAD s/p multiple 
STEMI/NSTEMIs,
CHF (last EF 39%, ___, and HTN presenting with acute onset
dyspnea. Shortness of breath started approximately one hour 
prior
to arrival. She was at her baseline before then and there was no
known inciting factor. Had a dry cough today, but denies any
fever, chest pain, nausea/vomiting or abdominal pain. She 
reports
that this even feels like her prior asthma exacerbations. She 
was
brought in by EMS to ___ ED and in transit received albuterol
and methylprednisone.

In the ED, vitals were: HR 78, BP 114/60, RR 23, SpO2 97% on
BiPAP. Exam was unremarkable.

ED labs were notable for:   
-WBC 9.6, Hgb 11.6, 
-___ 13.1, INR 1.2
-Na 130, HCO3 21, Cr 1.3, BUN 21, Gluc 226
-Trop 0.02, proBNP ___
-VBG: 7.25/55/117 -> 7.___
-Lactate 2.2 -> 1.6

A chest x-ray (___) was obtained in the ED:
Stable cardiomegaly with pulmonary vascular congestion. Possible
small left pleural effusion. No frank pulmonary edema. 

She was placed on BiPAP in the ED. She received stacked
methylpred duonebs x3, magnesium sulfate 2g, ceftriaxone 1g and
azithromycin 500mg. She was trialed off BiPAP, but did not
tolerate it so was placed back on. Requires ICU admission for
continued positive pressure ventilation requirement.
  
VS Prior to Transfer: HR 31, BP 105/52, RR 15, SpO2 93% on 
BiPAP.

On arrival in the ICU, she was asleep, tachypneic, but
comfortable on BiPAP. She did not report any pain or discomfort.

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
Admission Physical Exam
======================== 
VS: Reviewed in Metavision  
GEN: NAD, asleep wearing BiPAP mask 
HEENT: PERRL, wearing BiPAP mask
NECK: JVP not visualized with HOB at 30deg 
CV: RRR, no murmurs/rubs/gallops, normal s1/s2 
RESP: tachypneic on BiPAP, end expiratory wheezes diffusely and
crackles at bilateral lung bases 
GI: soft, non-distended, non-tender 
EXT: warm, well-perfused, ___ edema present 

Discharge Physical Exam
========================= 
PHYSICAL EXAM: Vitals: Temp: 97.6 PO BP: 155/85 R Lying HR: 79 
RR: 17 O2 sat: 98% O2 delivery: Ra FSBG: 350 
General: Elderly woman, sitting comfortably upright in bed, in 
no acute distress
HEENT: NC/AT, EOMI, MMM
Neck: Supple, no appreciable JVD
CV: Tachycardic, normal S1/S2, no m/r/g
Resp: Mild expiratory wheezes bilaterally. No rales or rhonchi.  

GI: Soft, nontender, nondistended, active bowel sounds 
EXT: No cyanosis, clubbing, or edema
Skin: Warm, well-perfused, no rashes
Neuro: Alert, moving all extremities with purpose, no facial 
asymmetry, fluent speech

 
Pertinent Results:
ADMIT LABS:
============
___ 10:00PM BLOOD WBC-9.6 RBC-3.87* Hgb-11.6 Hct-35.1 
MCV-91 MCH-30.0 MCHC-33.0 RDW-14.8 RDWSD-49.2* Plt ___
___ 10:00PM BLOOD Neuts-47.4 ___ Monos-10.6 Eos-2.5 
Baso-0.9 Im ___ AbsNeut-4.54 AbsLymp-3.67 AbsMono-1.02* 
AbsEos-0.24 AbsBaso-0.09*
___ 10:00PM BLOOD ___ PTT-36.0 ___
___ 10:00PM BLOOD Glucose-226* UreaN-21* Creat-1.3* Na-130* 
K-4.4 Cl-97 HCO3-21* AnGap-12
___ 10:00PM BLOOD proBNP-___*
___ 04:07AM BLOOD Calcium-8.7 Phos-3.8 Mg-3.0*
___ 10:05PM BLOOD ___ pO2-117* pCO2-55* pH-7.25* 
calTCO2-25 Base XS--3
___ 10:05PM BLOOD Lactate-2.2*

MICROBIOLOGY:
==============
___ Blood cx: Pending with NGTD

IMAGING:
=========
CXR ___
Stable cardiomegaly with pulmonary vascular congestion.  
Possible small left pleural effusion.  No frank pulmonary edema. 


TTE ___
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. There is normal left
ventricular wall thickness with a borderline increased/dilated 
cavity. There is moderate to severe regional left
ventricular systolic dysfunction with near akinesis of the basal 
___ of the inferior and infero-lateral walls,
hypokinesis of the more distal segments and mild apical dykineis 
(see schematic) and normal function of the
remaining segments. No thrombus or mass is seen in the left 
ventricle. Quantitative 3D volumetric left
ventricular ejection fraction is 35 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is
no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Tissue Doppler suggests
an increased left ventricular filling pressure (PCWP greater 
than 18 mmHg). Normal right ventricular cavity
size with mild global free wall hypokinesis. The aortic sinus 
diameter is normal for gender with normal
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta
diameter. The aortic valve leaflets (?#) are mildly thickened. 
There is no aortic valve stenosis. There is mild to
moderate [___] aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve
prolapse. There is mild [1+] mitral regurgitation.The pulmonic 
valve leaflets are not well seen. The tricuspid
valve leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. There is mild pulmonary
artery systolic hypertension. There is no pericardial effusion. 
There is a prominent anterior fat pad.
IMPRESSION: Suboptimal image quality. Borderline dilated left 
ventricular cavity size with regional
systolic dysfunction most consistent with multivessel coronary 
artery disease. Mild-moderate
aortic regurgitation. Mild mitral regurgitation with normal 
valve morphology. Mild pulmonary
artery systolic hypertension.
  
INTERVAL LABS:
===============
___ 07:57AM BLOOD ___ pO2-278* pCO2-58* pH-7.26* 
calTCO2-27 Base XS--1 Comment-GREEN TOP

DISCHARGE LABS:
=================
___ 06:28AM BLOOD WBC-7.9 RBC-3.43* Hgb-10.4* Hct-31.0* 
MCV-90 MCH-30.3 MCHC-33.5 RDW-15.4 RDWSD-50.8* Plt ___
___ 06:28AM BLOOD Plt ___
___ 06:28AM BLOOD Glucose-105* UreaN-35* Creat-1.3* Na-138 
K-4.4 Cl-99 HCO3-26 AnGap-13
___ 06:28AM BLOOD Calcium-9.2 Phos-2.6* Mg-2.2

 
Brief Hospital Course:
Ms. ___ is a ___ with COPD/asthma, CAD s/p multiple 
STEMI/NSTEMIs, HFrEF (EF 30% ___, and HTN who presented 
with acute onset dyspnea likely secondary to COPD exacerbation 
with
possible HFpEF exacerbation, as well. 

ACUTE ISSUES 
=============== 
# Acute COPD/asthma exacerbation 
In ED, initially requiring BiPAP and admission to ICU but 
recovered quickly, was weaned to room air, and transferred to 
medicine service. On the floor, continued on prednisone 40mg 
daily and azithromycin for planned 5d course with stable 
clinical status. Triggered morning of ___ for increasing 
tachypnea and poor air movement on exam; was treated with 
albuterol nebs x3 and IV methylpred 60mg with improvement. 
Repeat CXR stable and repeat VBG with increased hypercarbia to 
high 50's. Ultimately improved and was continued on 
azithromycin, prednisone, and duonebs. 

# Acute on chronic systolic heart failure exacerbation
Mildly hypervolemic on admission with reported weight gain in 
the week prior to presentation. Initially treated with IV Lasix 
80mg boluses, then transitioned back to home furosemide 80mg 
daily. A TTE performed on day of discharge, report pending. 
Continued on home metoprolol succinate, losartan, and imdur. 

# Acute on chronic CKD
Baseline Cr 1.2-1.5. Cr increased to 1.6 after re-initiation of 
home furosemide 80mg, but ultimately improved to 1.3 on day of 
discharge. 

CHRONIC ISSUES:
===============
# CAD s/p PCI
On admission, was taking apixiban only. Clarified home 
anticoagulation/antiplatelet agents with Dr. ___ 
outpatient cardiologist), who recommended discharge on 
clopidogrel alone for management of MI, so apixiban ultimately 
discontinued. 

# HLD: Continued home atorvastatin

# Insomnia: Continued home mirtazapine

# Depression: Continued home mirtazapine and gabapentin

# General bone health: Continued home calcium carbonate 

TRANSITIONAL ISSUES:
=====================
[] f/u pending TTE report 
[] please follow-up pulmonary exam at appointment with PCP; 
consider increasing dose of budesonide inhaler vs. starting 
long-acting beta agonist if persistent wheezing on exam 
[] consider spirometry with bronchodilator testing for further 
clarification regarding whether ___ respiratory 
symptoms/exacerbations are secondary to asthma vs. COPD
[] after discussion with ___ outpatient cardiologist, 
discontinued apixiban and maintained patient on Plavix alone for 
management of MI
[] please repeat Cr at follow-up with PCP
[] follow-up blood sugars; slightly high with administration of 
steroids in house 

#CODE STATUS: full code, confirmed 
#EMERGENCY CONTACT: ___ (daughter): ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Apixaban 2.5 mg PO BID 
3. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
4. Clopidogrel 75 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 300 mg PO BID 
7. Mirtazapine 15 mg PO QHS 
8. Omeprazole 40 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
10. Senna 8.6 mg PO QHS:PRN Constipation - First Line 
11. ketotifen fumarate (bulk) 1 drop each eye BID 
12. Metoprolol Succinate XL 50 mg PO DAILY 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing 
16. Calcium Carbonate 600 mg PO BID 
17. budesonide 90 mcg/actuation inhalation TID 
18. Atorvastatin 80 mg PO QPM 
19. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
20. Losartan Potassium 25 mg PO DAILY 
21. Furosemide 80 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
3.  Atorvastatin 80 mg PO QPM  
4.  budesonide 90 mcg/actuation inhalation TID  
5.  Calcium Carbonate 600 mg PO BID  
6.  Clopidogrel 75 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Furosemide 80 mg PO DAILY  
9.  Gabapentin 300 mg PO BID  
10.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
11.  ketotifen fumarate (bulk) 1 drop each eye BID  
12.  Losartan Potassium 25 mg PO DAILY  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Mirtazapine 15 mg PO QHS  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
17.  Omeprazole 40 mg PO DAILY  
18.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
19.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing  
20.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Acute COPD exacerbation 
- Acute heart failure exacerbation 

SECONDARY DIAGNOSIS:
=====================
- Asthma 
- Coronary artery disease
- Hypertension
- Hyperlipidemia
- Peripheral artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital because you were feeling short 
of breath. 

In the hospital, you were treated with nebulizers, steroids, and 
antibiotics for a flare of your asthma/COPD. You were also 
treated with a medication called Lasix to help remove extra 
fluid from your lungs. 

When you leave the hospital, you should continue taking your 
medications, as prescribed. Please take your budesonide inhaler 
THREE times/day and rinse your mouth with water after each use. 
It is VERY important that you weigh yourself every morning and 
call your cardiologist if your weight increases by more than ___ 
pounds. This may be a sign that your home furosemide (Lasix) 
medication needs to be re-started. Please also follow up with 
your primary care doctor and cardiologist (appointment 
information below). 

It was a privilege caring for you, and we wish you well!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___